US04336375
3-mercapto-5(1-pyrazolyl)-1,2,4-triazole
Sodium nitrite (0.4 g) was added to 25 ml of conc HNO3 and 75 ml H2O (after R. A. Henry and W. G. Finnegan, J. Am. Chem. Soc., 76, 290 (1954) and C. A. Amsworth and R. G. Jones J. Am. Chem. Soc., 75, 4915 (1953). Solid 4-amino-3-mercapto-5-(1-pyrazolyl)-1,2,4-triazole (5 g) was added in small batches with stirring while keeping the temperature below 40° C. After addition, the solution was stirred for 20 minutes and made basic by the addition of 15% aq. Na2CO3. The yellow solution was filtered and acidified with glacial acetic acid (25 ml). The tan precipitate was collected and boiled with ethanol to give 2.3 g of tan powder m.p. 245°-247°.

reactant | Sodium nitrite | 0.4 g | N(=O)[O-].[Na+]
reactant | HNO3 | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-amino-3-mercapto-5-(1-pyrazolyl)-1,2,4-triazole | 5 g | NN1C(=NN=C1N1N=CC=C1)S | C5H6N6S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 75 ml | O | H2O
product | 3-mercapto-5(1-pyrazolyl)-1,2,4-triazole | 2.3 g | SC1=NNC(=N1)N1N=CC=C1 | C5H5N5S
